US04053300
A nitrating mixture obtained by dissolving potassium nitrate (94 g.) in concentrated sulphuric acid (d= 1.83) (750 cc.) is added dropwise, over the course of 1 hour, to a solution of 4-carboxy-isoquinoline (146.8 g.) in concentrated sulphuric acid (d= 1.83) (880 cc.). The solution obtained is kept at a temperature of about 20° C. for 16 hours and is then poured onto ice (18 kg.). Ammonia (11 N) (5.5 liters) is added gradually, whilst stirring and keeping the temperature of the mixture at between 15° and 20° C. The yellow precipitate which has appeared is filtered off, washed with water (800 cc. in total) and then dried. 4-Carboxy-5-nitro-isoquinoline (144 g.) melting at 285° is thus obtained.

reactant | potassium nitrate | 94 g | [N+](=O)([O-])[O-].[K+]
reactant | 4-carboxy-isoquinoline | 146.8 g | C(=O)(O)C1=CN=CC2=CC=CC=C12 | C10H7NO2
reactant | Ammonia | 11 N, 5.5 liters | N | H3N
solvent | sulphuric acid | 750 cc | S(O)(O)(=O)=O | H2O4S
solvent | sulphuric acid | 880 cc | S(O)(O)(=O)=O | H2O4S
product | 4-Carboxy-5-nitro-isoquinoline | 144 g | C(=O)(O)C1=CN=CC2=CC=CC(=C12)[N+](=O)[O-] | C10H6N2O4
